US07951950B2
A three-neck round bottom flask with magnetic stirrer was charged with crude (2-nitro-phenyl)-acetic acid methyl ester (7.23 g, 37.0 mmol), potassium carbonate (46.1 g, 33.3 mmol), 18-crown-6 (0.650 g), and potassium iodide (0.650 g) under an argon atmosphere. To the flask was added acetonitrile (80 mL) and the mixture heated at 70° C. for one hour. To the reaction was added chloroacetone (3.50 mL, 44.0 mmol) and the reaction stirred at 70° C. under argon for 18-20 hours. The reaction was cooled to room temperature and filtered through a pad of celite. The resulting filtrate was concentrated in vacuo to afford 9.64 g of crude material. Purification via flash chromatography (0-40% ethyl acetate/hexanes eluent) yielded 4.74 g of 2-(2-nitro-phenyl)4-oxo-pentanoic acid methyl ester (51%).

reactant | (2-nitro-phenyl)-acetic acid methyl ester | 37.0 mmol, 7.23 g | COC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C9H9NO4
reactant | potassium carbonate | 33.3 mmol, 46.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.650 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium iodide | 0.650 g | [I-].[K+]
reactant | chloroacetone | 44.0 mmol, 3.50 mL | ClCC(C)=O | C3H5ClO
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2-(2-nitro-phenyl)4-oxo-pentanoic acid methyl ester | 4.74 g, 51% | COC(C(CC(C)=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H13NO5
